US08754079B2
XX.2 (R,R)-4-Fluoro-2-(2-Hydroxycyclohexyloxy)-anilin
(R,R)-4-Fluoro-2-(2-hydroxycyclohexyloxy)-nitrobenzene (1.99 g) in methanol (20.0 ml) was hydrogenated under 50 psi hydrogen for 5 h at rt using palladium on charcoal (5%) (200 mg) as catalyst. The catalyst was filtered off; the resulting solution was evaporated to dryness to yield an oil.

reactant | (R,R)-4-Fluoro-2-(2-hydroxycyclohexyloxy)-nitrobenzene | 1.99 g | FC1=CC(=C(C=C1)[N+](=O)[O-])O[C@H]1[C@@H](CCCC1)O | C12H14FNO4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 20.0 ml | CO | CH4O
catalyst | palladium on charcoal | 200 mg | [Pd] | Pd
product | (R,R)-4-Fluoro-2-(2-Hydroxycyclohexyloxy)-anilin | FC1=CC(=C(N)C=C1)O[C@H]1[C@@H](CCCC1)O | C12H16FNO2
